US04220767
Pyridine-3-carboxaldehyde (92.6 g), N-acetylglycine (86.0 g) and sodium acetate (35.3 g) were heated together under reflux in acetic anhydride (150 ml) for 1 hour. After cooling, water (250 ml) was added and the mixture was filtered to give the crude azlactone (50.9 g) m.p. 55°-60°. Partial hydrolysis of the azlactone (50 g) was achieved by heating under reflux in acetone (450 ml) and water (75 ml) for four hours. After this time the bulk of the acetone was distilled off and more water (300 ml) added. The resulting deep red solution was boiled with charcoal for 10 minutes and filtered through celite. The filtrate was evaporated to dryness and the residue was triturated and washed with acetone to give 2-acetamido-3-(3-pyridyl)acrylic acid (35 g) m.p. 191°-92° which was not further purified.

reactant | Pyridine-3-carboxaldehyde | 92.6 g | N1=CC(=CC=C1)C=O | C6H5NO
reactant | N-acetylglycine | 86.0 g | C(C)(=O)NCC(=O)O | C4H7NO3
reactant | sodium acetate | 35.3 g | C(C)(=O)[O-].[Na+]
reactant | water | 250 ml | O | H2O
reactant | water | 75 ml | O | H2O
solvent | acetic anhydride | 150 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetone | 450 ml | CC(=O)C | C3H6O
product | 2-acetamido-3-(3-pyridyl)acrylic acid | 35 g | C(C)(=O)NC(C(=O)O)=CC=1C=NC=CC1 | C10H10N2O3
